US07259266B2
Preparation of 6-chloro-8-(4-fluorophenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid.
To 0.400 g (0.428 mmole) of Wang resin 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate was added 50 mg (0.043 mmole) tetrakis(triphenylphosphine)palladium(0), 0.180 g (1.285 mmole) 4-fluorophenylboronic acid, 0.857 mL K2CO3 (2M soln degassed), and 4 mL degassed DMF. The reaction mixture was heated to 100° C. for 18 hr. The reaction mixture was transferred and washed as follows: DMF (×5), H2O (×5), MeOH (×5), and CH2Cl2 (×5). The resin was treated with 2 mL (TFA:CH2CL2, 1:1) for 30 minutes. The filtrate was collected and treatment was repeated. The resin was washed with CH2Cl2 (×2) and all filtrates were combined and concd. The resulting oil was purified using reverse phase chromatography to afford 0.055 g (34%) of a yellow crystalline solid: 1H NMR (CDCl3/400 MHz) 5.66 (q, 1H, J=6.8 Hz), 7.10-7.15 (m, 2H), 7.26 (d, 1H, J=2.4 Hz), 7.37 (d, 1H, J=2.4 Hz), 7.42-7.47 (m, 2H), 7.90 (s, 1H); MS (ES+) 373 (M+1, 100); HRMS (ES−) m/z calcd for (C17H9O3ClF4) 371.0093, found 371.0067.

reactant | 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=C(C1)I)C(F)(F)F)C(=O)[O-]
reactant | 4-fluorophenylboronic acid | 1.285 mmole, 0.180 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 2M, 0.857 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.043 mmole, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-chloro-8-(4-fluorophenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.055 g, 34% | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC=C(C=C1)F)C(F)(F)F)C(=O)O | C17H9ClF4O3
